US08389524B2
(h) N-(1-{[(1R)-4,9-Dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl]methyl}-4-methyl-4-piperidinyl)-2,2,2-trifluoroacetamide
A solution of N-(1-{[(2R)-4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl}-4-methyl-4-piperidinyl)-2,2,2-trifluoroacetamide (375 mg, 0.909 mmol) in 1,4-dioxane (20 ml) at rt was treated with DDQ (248 mg, 1.091 mmol) and then heated at 80° C. for 1 h. The reaction was then cooled to rt. The reaction mixture was treated with saturated aqueous K2CO3 (5%, 100 ml), then with DCM (100 ml) and the mixture filtered through Kieselguhr. The organic fraction was separated and the aqueous layer extracted with DCM (2×100 ml). The combined organic solvents were then dried (MgSO4), filtered and evaporated to give the crude product as a yellow oil. Chromatography on silica (0-10% methanol:DCM, Rf=0.4 in 10% MeOH/DCM) gave the product as a clear oil (171 mg, 46%).

reactant | N-(1-{[(2R)-4,9-dioxo-1,2,8,9-tetrahydro-4H,7H-imidazo[1,2,3-ij]-1,8-naphthyridin-2-yl]methyl}-4-methyl-4-piperidinyl)-2,2,2-trifluoroacetamide | 0.909 mmol, 375 mg | O=C1N2C=3N(C(CCC3C=C1)=O)C[C@H]2CN2CCC(CC2)(C)NC(C(F)(F)F)=O | C19H23F3N4O3
reactant | DDQ | 1.091 mmol, 248 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | K2CO3 | 100 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-(1-{[(1R)-4,9-Dioxo-1,2-dihydro-4H,9H-imidazo[1,2,3-ij]-1,8-naphthyridin-1-yl]methyl}-4-methyl-4-piperidinyl)-2,2,2-trifluoroacetamide | 171 mg, 46% | O=C1N2C=3N(C(C=CC3C=C1)=O)[C@@H](C2)CN2CCC(CC2)(C)NC(C(F)(F)F)=O | C19H21F3N4O3
